US06969766B2
1-(5-Chloro-benzothiazole-2-sulfonyl)-4-{[2-N-(benzhydryloxycarbonyl)-guanin-9-yl]-acetyl}-piperazin-2-one
The title compound was synthesized by the reaction of 1-(5-chloro-benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt with [2-N-(benzhydryloxycarbonyl)-guanin-9-yl]-acetic acid as per the procedure of Example 52. 1H NMR (500 MHz; DMSO-d6) δ 11.62 (brs, H), 11.25 (brs, 1H), 8.42-8.39 (m, 1H), 7.96 (s, 0.6H), 7.82 (s, 0.4H), 7.78 (m, 1H), 7.46 (d, 4H), 7.39 (t, 4H), 7.31 (t, 2H), 6.87 (s, 1H), 5.17 (s, 1.2H), 5.06 (s, 0.8H), 4.53 (s, 0.8H), 4.29 (s, 1.2H), 4.25 (t, 1.2H), 4.08-4.06 (m, 2H), 3.87 (t, 0.8H).

reactant | 1-(5-chloro-benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt | FC(C(=O)O)(F)F.ClC=1C=CC2=C(N=C(S2)S(=O)(=O)N2C(CNCC2)=O)C1
reactant | [2-N-(benzhydryloxycarbonyl)-guanin-9-yl]-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC=1NC(C=2N=CN(C2N1)CC(=O)O)=O | C21H17N5O5
product | 1-(5-Chloro-benzothiazole-2-sulfonyl)-4-{[2-N-(benzhydryloxycarbonyl)-guanin-9-yl]-acetyl}-piperazin-2-one | ClC=1C=CC2=C(N=C(S2)S(=O)(=O)N2C(CN(CC2)C(CN2C=3N=C(NC(C3N=C2)=O)NC(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O)C1 | C32H25ClN8O7S2
